Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:5]([H:6])[O:7][H:8].[H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-1.99260076618
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-6.07692276364
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],-5.07980679565
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2],6.09065969008
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],2.14649948445
[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.02027271737
[C:1]#[C:2].[C:3]#[C:4][H:5]>>[C:1]#[C:2][C:3]#[C:4][H:5],-6.54089767592
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:12][H:13].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.95526466224
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.11992733836
[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],5.07936404891
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],6.95108430726
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.878412712
[C:1]#[C:2][C:3][C:6]([H:7])[H:8].[C:4]=[O:5]>>[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])[H:8],-0.21193014217
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4][H:5],5.818341172719999
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.544714547
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.1532349869200003
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7][H:8]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7].[H:8],5.62387305721
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:1][C:2],10.70433095
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],2.81425846363
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.58292621392
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-1.03496452529
[H:1][C:2]#[C:3][C:4][O:5][C:6]#[C:7][H:8]>>[C:4][O:5][C:6]#[C:7][H:8].[H:1][C:2]#[C:3],5.0588549855
[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.7396126806100001
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],2.08500200277
[H:1][O:2][C:3]/[C:4](=[C:5]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.789123619290001
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7]/[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9],-2.57991318029
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])([H:4])[C:5][O:6]/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],2.30952165073
[O:1]=[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.3708473639300003
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.73862940496
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-6.8474490491
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4]([H:5])[C:10]([H:11])([H:12])[O:13][H:14],4.07858671847
